US07655643B2
3-(Benzyloxy)-5-hydroxybenzaldehyde
Preparation takes place in analogy to Example 3H from 5.0 g (36.2 mmol) of 3,5-dihydroxybenzaldehyde, 6.81 g (39.8 mmol) of benzyl bromide and 11.8 g (36.2 mmol) of cesium carbonate.

reactant | 3,5-dihydroxybenzaldehyde | 36.2 mmol, 5.0 g | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | benzyl bromide | 39.8 mmol, 6.81 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 36.2 mmol, 11.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 3-(Benzyloxy)-5-hydroxybenzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)O | C14H12O3
